US07700641B2
D. Synthesis of 7-fluoro-3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-1-{[5-(trifluoromethyl)-2-furyl]methyl}-1,3-dihydro-2H-indol-2-one
Following the procedure as described in PREPARATION 26C, and making non-critical variations to replace 1-(diphenylmethyl)-3-(5-hydroxy-2,3-dihydro-1-benzofuran-6-yl)-1,3-dihydro-2H-indol-2-one with 7-fluoro-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1-{[5-(trifluoromethyl)-2-furyl]methyl}-1,3-dihydro-2H-indol-2-one, the title compound was obtained (67%): MS (ES+) m/z 488.4 (M+23).

reactant | 1-(diphenylmethyl)-3-(5-hydroxy-2,3-dihydro-1-benzofuran-6-yl)-1,3-dihydro-2H-indol-2-one | C1(=CC=CC=C1)C(N1C(C(C2=CC=CC=C12)C1=CC2=C(CCO2)C=C1O)=O)C1=CC=CC=C1 | C29H23NO3
reactant | 7-fluoro-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1-{[5-(trifluoromethyl)-2-furyl]methyl}-1,3-dihydro-2H-indol-2-one | FC=1C=CC=C2C(C(N(C12)CC=1OC(=CC1)C(F)(F)F)=O)C1=CC2=C(OCO2)C=C1O | C21H13F4NO5
product | 7-fluoro-3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-1-{[5-(trifluoromethyl)-2-furyl]methyl}-1,3-dihydro-2H-indol-2-one | FC=1C=CC=C2C(C(N(C12)CC=1OC(=CC1)C(F)(F)F)=O)(CO)C1=CC2=C(OCO2)C=C1O | C22H15F4NO6
